US05274116
Phenylmethyl-[2-oxo-2-[[2-(1H-pyrrol-2-ylcarbonyl)-1H-pyrrol-1-yl]amino]ethyl]carbamate
To a solution of (1-amino-1H-pyrrol-2-yl)-1H-pyrrol-2-ylmethanone (4.41 g) and N-carbobenzyloxyaminoglycine (5.27 g) in 10 ml of anhydrous dimethylformamide and 100 ml of anhydrous DCM was added DCC (6.23 g). The reaction mixture was stirred overnight at room temperature, filtered and the filtrate evaporated in vacuo. The residual oil was purified by preparative HPLC (n-heptane/ethyl acetate 2:3) and subsequent recrystallization from ethyl acetate/n-heptane afforded the product as a powder (6.74 g), m.p. 157°-158° C.

reactant | (1-amino-1H-pyrrol-2-yl)-1H-pyrrol-2-ylmethanone | 4.41 g | NN1C(=CC=C1)C(=O)C=1NC=CC1 | C9H9N3O
reactant | N-carbobenzyloxyaminoglycine | 5.27 g | C(=O)(OCC1=CC=CC=C1)NNCC(=O)O | C10H12N2O4
reactant | DCC | 6.23 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
product | Phenylmethyl-[2-oxo-2-[[2-(1H-pyrrol-2-ylcarbonyl)-1H-pyrrol-1-yl]amino]ethyl]carbamate | 6.74 g | C1(=CC=CC=C1)COC(NCC(NN1C(=CC=C1)C(=O)C=1NC=CC1)=O)=O | C19H18N4O4
